data/pmechdb/original/mc_train_fold0/raw/train.txt
CC(=O)O[I+:20]1(C2=C(C=CC=C2)C(=O)O1)OC(=O)C.COC1=C(C(=C(C=C1)Br)C(=O)N2CCC(C3=C(CC2)C=C4C(=C3)OCO4)[OH:10])OC.CC(=O)[O-]>>CC(=O)O[I:20]1(C2=C(C=CC=C2)C(=O)O1)([OH+:10]C3CCN(CCC4=C3C=C5C(=C4)OCO5)C(=O)C6=C(C=CC(=C6OC)OC)Br)OC(=O)C.CC(=O)[O-] 10=20,
[H:20][O+:21](CC)C(CC)N(C)C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCC(N(C)C)[O:21]CC 10=20;20,21=21
C[P+:20](C)(C)Cl.[OH2:10]>>C[P:20](C)(C)([OH2+:10])Cl 10=20,
[H:20][C:21]#N.CC(=C1C(=O)CC(CC1=O)(C)C)[O-:10].CC[N+](CC)(CC)[K]>>[H:20][O:10]C(=C1C(=O)CC(CC1=O)(C)C)C.[C-:21]#N.CC[N+](CC)(CC)[K] 10=20;20,21=21
C(C[CH:20]=[OH+:21])C[OH:10]>>C1C[CH:20]([OH+:10]C1)[OH:21] 10=20;20,21=21
[H:20][O:21]C(=O)CC1=CC=C(C=C1)N(=O)=O.CCOC(=O)N[N-:10]C(=O)OCC.C1=CC=C(C=C1)C(C#N)O[P+](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4>>[H:20][N:10](C(=O)OCC)NC(=O)OCC.C1=CC(=CC=C1CC(=O)[O-:21])N(=O)=O.C1=CC=C(C=C1)C(C#N)O[P+](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4 10=20;20,21=21
C1=CC2=C(C=C1)[CH:10]=[C:11](C=C2)Br.[N+:20](=O)=[O:21]>>C1=CC2=C(C=C1)[CH:10]([C+:11](C=C2)Br)[N+:20](=O)[O-:21] 10,11=10,20;20,21=21
CCCCCC1=C(C=CC=C1)[P:10](C2=CC=CC=C2)C3=CC=CC=C3.CCOC(=O)[N:20]=[N:21]C(=O)OCC.CC(C)CCCCC(C(C(=O)O)OC1=CC=CC=C1)O>>CCCCCC1=C(C=CC=C1)[P+:10](C2=CC=CC=C2)(C3=CC=CC=C3)[N:20](C(=O)OCC)[N-:21]C(=O)OCC.CC(C)CCCCC(C(C(=O)O)OC1=CC=CC=C1)O 10=20;20,21=21
CCC1CC(C(C1C(=C[O-:10])C)[CH:20]=[N+:21](C)C2=CC=CC=C2)C.C[NH2+]C1=CC=CC=C1.O>>CCC1CC(C2C1C(=C[O:10][CH:20]2[N:21](C)C3=CC=CC=C3)C)C.C[NH2+]C1=CC=CC=C1.O 10=20;20,21=21
CC(C[CH:20](C1(CCOCC1)[S:10]C2=CC=CC=C2)[OH2+:21])O.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CC(C[CH:20]1C2([S+:10]1C3=CC=CC=C3)CCOCC2)O.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
C[OH:10].[PH+:20](Cl)(Cl)Cl>>C[OH+:10][PH:20](Cl)(Cl)Cl 10=20,
C[C:10]1(CCCC(=O)C1)[OH2+:11]>>C[C+:10]1CCCC(=O)C1.[OH2:11] 10,11=11
[H:20][O+:21](CC)C(=N)C1(CCC(C(C1CC(=O)C)(C(=O)OCC)C(=O)OCC)C)C#N.CC[OH:10].[Cl-]>>[H:20][OH+:10]CC.CC[O:21]C(=N)C1(CCC(C(C1CC(=O)C)(C(=O)OCC)C(=O)OCC)C)C#N.[Cl-] 10=20;20,21=21
CN[CH:20]([O-:10])[O:21]C>>CN[CH:20]=[O:10].C[O-:21] 10=20;20,21=21
C[Si](C)(C)C[CH:11]=[CH:10]CCC[CH2+:20]>>C[Si](C)(C)C[CH+:11][CH:10]1CCC[CH2:20]1 10,11=10,20
[H:20][O:21]C(=O)CNC(=O)OC(C)(C)C.CC(C)N=C=[N:10]C(C)C.CCC1(C2=C(COC1=O)C(=O)N3CC4=C(C3=C2)N=C5C=CC=CC5=C4)O.CN(C)C1=CC=NC=C1>>[H:20][N+:10](=C=NC(C)C)C(C)C.CC(C)(C)OC(=O)NCC(=O)[O-:21].CCC1(C2=C(COC1=O)C(=O)N3CC4=C(C3=C2)N=C5C=CC=CC5=C4)O.CN(C)C1=CC=NC=C1 10=20;20,21=21
CC([C:20](=[O+:21]CC[OH:10])C1=CC=CC=C1)Br>>CC([C:20]1([OH+:10]CC[O:21]1)C2=CC=CC=C2)Br 10=20;20,21=21
CO[P-:11]1(=O)([CH2:10][CH2:20][O:21]1)OC>>CO[P:11](=O)([O-:21])OC.[CH2:10]=[CH2:20] 10,11=10,20;20,21=21
[H:20][O+:21](CC)C(C=C)(O)Cl.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[O:21]C(C=C)(O)Cl 10=20;20,21=21
[B-:13]1(C2CCCC1CCC2)([CH2:12][C:11]#[C:10][Si](C)(C)C)[O+:21]=[CH:20]CCC3CCCCC3=O>>[B:13]1(C2CCCC1CCC2)[O:21][CH:20](CCC3CCCCC3=O)[C:10](=[C:11]=[CH2:12])[Si](C)(C)C 10,11=10,20;20,21=21;12,13=11,12
C[C:20]1(C([Br+:21]1)C2=CC=CC=C2)C.[Br-:10]>>C[C:20](C)(C(C1=CC=CC=C1)[Br:21])[Br:10] 10=20;20,21=21
C[C:20]([NH3+:21])([OH:10])OC.[Cl-]>>C[C:20](=[OH+:10])OC.[NH3:21].[Cl-] 10=20;20,21=21
[H:20][O+:21](C)C(C)(C)C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(C)(C)[O:21]C 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCNC(C)(C)[O-:10]>>[H:20][O:10]C(C)(C)NCC.OS(=O)(=O)[O-:21] 10=20;20,21=21
CC[OH:10].C[CH:20]=[N+:21](C)C>>CC[OH+:10][CH:20](C)[N:21](C)C 10=20;20,21=21
[H:20][CH:21](C1CCCN1C(=O)C2=CC=CN2)[O:22][I+:23]3(C4=C(C=CC=C4)C(=O)O3)OC(=O)C.CC(=O)[O-:10].CC(=O)O>>[H:20][O:10]C(=O)C.CC(=O)O[I:23]1C2=C(C=CC=C2)C(=O)O1.C1CC(N(C1)C(=O)C2=CC=CN2)[CH:21]=[O:22].CC(=O)O 10=20;22,23=23;20,21=21,22
[H:20][O+:21]([B-:22](F)(F)[F:23])C(C)(C)C.C1=CC=C(C=C1)C#CC2=C(C=CC=C2)N=N[OH:10].CC#N>>[H:20][OH+:10]N=NC1=C(C=CC=C1)C#CC2=CC=CC=C2.[B-:22](=[O+:21]C(C)(C)C)(F)F.[F-:23].CC#N 10=20;22,23=23;20,21=21,22
C1C[C:20]([CH:10]=[C:11]1[OH:12])([O:21]C(=O)C(=O)Cl)Cl>>C1C[C:11](=[OH+:12])[CH:10]=[C:20]1Cl.C(=O)(C(=O)Cl)[O-:21] 10,11=10,20;20,21=21;12=11
[CH:11]1=[CH:10]OC(=C1)[N+](=O)[O-].[N+:20](=O)=[O:21]>>C1=C(O[CH:10]([CH+:11]1)[N+:20](=O)[O-:21])[N+](=O)[O-] 10,11=10,20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCCCOC[CH:10]=[C:11]([OH:12])OC>>[H:20][CH:10](COCCCC)[C:11](=[OH+:12])OC.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
CO[C:20]1([OH+:21]CCCO1)[OH:10]>>CO[C:20](=[OH+:10])OCCC[OH:21] 10=20;20,21=21
[B:20](Br)(Br)Br.CCCC1=CC=CC(=C1[O:10]C)C>>[B-:20]([O+:10](C)C1=C(C=CC=C1CCC)C)(Br)(Br)Br 10=20,
[H:20][O+:21](CC)C(C(C)C)OC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[O:21]C(C(C)C)OC 10=20;20,21=21
[H:20][O:21][P+:22](O)(O)O.[OH2:10]>>[H:20][OH2+:10].O[P:22](=[O:21])(O)O 10=20;20,21=21,22
[H:20][OH:21].CCCC(C)[O-:10]>>[H:20][O:10]C(C)CCC.[OH-:21] 10=20;20,21=21
C[C:11](=[CH:10][CH:20](C1=CC=CC=C1)[OH:21])[O-:12]>>C[C:11](=[O:12])[CH:10]=[CH:20]C1=CC=CC=C1.[OH-:21] 10,11=10,20;20,21=21;12=11
C[C:20](=[O+:21]C)C.CC(=O)[O-:10].CO>>CC(=O)[O:10][C:20](C)(C)[O:21]C.CO 10=20;20,21=21
CN(C)C1=CC=[N:10]C=C1.[CH3:20][I:21]>>[CH3:20][N+:10]1=CC=C(C=C1)N(C)C.[I-:21] 10=20;20,21=21
